US07214673B2
(S)-9-Fluoro-5-{3-[2-(4-methoxy-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene dihydrochloride
Add a solution of acetyl chloride (0.144 mL, 2.02 mmol) in absolute ethanol to a solution of (S)-9-fluoro-5-{3-[2-(4-methoxy-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene (0.174 g, 0.348 mmol) in absolute ethanol and stir briefly at ambient temperature. Concentrate solution under reduced pressure to give an orange solid. Reconstitute the solid in acetonitrile: water (1:1), freeze-dry the solution in a dry-ice/acetone bath, and lyophilize overnight to give the title compound (0.208 g) as a yellow solid: mass spectrum (APCI+, m/e): 501 (M+1–2HCl); exact mass spectrum (ES+, m/e, C29H29FN4OS.2HCl): calc. 501.2124 (M+1–2HCl), found 501.2130.

reactant | acetyl chloride | 2.02 mmol, 0.144 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-9-fluoro-5-{3-[2-(4-methoxy-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene | 0.348 mmol, 0.174 g | FC=1C=CC2=C(NC=3SC4=C(C3C(=N2)N2C[C@@H](N(CC2)C)CCC2=CC=C(C=C2)OC)C=CC=C4)C1 | C29H29FN4OS
solvent | ethanol | C(C)O | C2H6O
solvent | acetonitrile water | C(C)#N.O
product | (S)-9-Fluoro-5-{3-[2-(4-methoxy-phenyl)-ethyl]-4-methyl-piperazin-1-yl}-11H-12-thia-6,11-diaza-dibenzo[a,f]azulene dihydrochloride | 0.208 g | Cl.Cl.FC=1C=CC2=C(NC=3SC4=C(C3C(=N2)N2C[C@@H](N(CC2)C)CCC2=CC=C(C=C2)OC)C=CC=C4)C1 | InChI=1S/C29H29FN4OS.2ClH/c1-33-15-16-34(18-21(33)11-7-19-8-12-22(35-2)13-9-19)28-27-23-5-3-4-6-26(23)36-29(27)32-25-17-20(30)10-14-24(25)31-28;;/h3-6,8-10,12-14,17,21,32H,7,11,15-16,18H2,1-2H3;2*1H/t21-;;/m0../s1
